US04307233
Triethylamine (55.6 cc) is added to a suspension of 7-amino-2-carboxy-3-methyl-8-oxo-5-thia-1aza-bicyclo[4.2.0]oct-2-ene (42.8 g) in dry N,N-dimethylformamide (250 cc), and after cooling the mixture to -20° C. a solution of chlorotriphenylmethane (55.8 g) in chloroform (250 cc) is added in the course of 2 hours. The reaction mixture is stirred for 24 hours at 25° C. and then poured into normal hydrochloric acid (400 cc). After filtration, the organic phase is separated off, concentrated to half its volume under reduced pressure (40 mm Hg) at 40° C., and taken up in ethyl acetate (400 cc). The aqueous phase is extracted with ethyl acetate (400 cc), and the combined organic phases are washed with normal hydrochloric acid (2×250 cc) and then extracted with a half-saturated sodium bicarbonate solution (4×500 cc). These combined aqueous phases are washed with ethyl acetate (300 cc), then acidified to pH 3 with 12 N hydrochloric acid and extracted with ethyl acetate (2×500 cc). The combined organic solutions are washed with a saturated sodium chloride solution (250 cc), dried over sodium sulphate and concentrated to dryness under reduced pressure (40 mm Hg) at 40° C. The residue is caused to solidify by adding isopropyl ether (250 cc). The solid is filtered off, washed with isopropyl ether (100 cc) and dried. A mixture (22.2 g) of 2-carboxy-3-methyl-8-oxo-7-tritylamino-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene (40%) and its oct-3-ene isomer (60%) is obtained in the form of a cream-coloured solid.

reactant | Triethylamine | 55.6 cc | C(C)N(CC)CC | C6H15N
reactant | 7-amino-2-carboxy-3-methyl-8-oxo-5-thia-1aza-bicyclo[4.2.0]oct-2-ene | 42.8 g | NC1C2SCC(=C(N2C1=O)C(=O)O)C | C8H10N2O3S
reactant | chlorotriphenylmethane | 55.8 g | ClC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H15Cl
reactant | hydrochloric acid | 400 cc | Cl | ClH
solvent | N,N-dimethylformamide | 250 cc | CN(C=O)C | C3H7NO
solvent | chloroform | 250 cc | C(Cl)(Cl)Cl | CHCl3
product | 2-carboxy-3-methyl-8-oxo-7-tritylamino-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene | 22.2 g, 40% | C(=O)(O)C=1N2C(C(C2SCC1C)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C27H24N2O3S
